US07309714B2
Step A: (3S)-1-[(2S,3S)-2-[(tert-Butoxylcarbonyl)amino]-3-(4-fluorophenyl)-1-oxobutanyl]-3-fluoropyrrolidine
To a stirred solution of (βS)-N-(tert-butoxycarbonyl)4-fluoro-β-methyl-L-phenylalanine Example 1, Step E, 0.15 g, 0.51 mmol) in anhydrous DMF (2 mL) was added EDC (0.25 g, 1.33 mmol), HOBT (0.18 g, 1.33 mmol), (3S)-3-fluoropyrrolidine hydrochloride (0.18 g, 1.45 mmol) and N,N′-diisopropylethylamine (0.23 mL, 1.31 mmol). After stirring at room temperature for 12 h, the reaction was diluted with ethyl acetate. The organic phase was washed sequentially with brine, 1N hydrochloric acid and 1N aqueous sodium hydroxide solution, dried over sodium sulfate, and evaporated in vacuo to yield the crude coupled product, which was used directly for the next step.

reactant | (βS)-N-(tert-butoxycarbonyl)4-fluoro-β-methyl-L-phenylalanine | C(C)(C)(C)OC(=O)N[C@@H]([C@H](C1=CC=C(C=C1)F)C)C(=O)O | C15H20FNO4
reactant | EDC | 1.33 mmol, 0.25 g
reactant | HOBT | 1.33 mmol, 0.18 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (3S)-3-fluoropyrrolidine hydrochloride | 1.45 mmol, 0.18 g | Cl.F[C@@H]1CNCC1
reactant | N,N′-diisopropylethylamine | 1.31 mmol, 0.23 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S)-1-[(2S,3S)-2-[(tert-Butoxylcarbonyl)amino]-3-(4-fluorophenyl)-1-oxobutanyl]-3-fluoropyrrolidine | O(C(C)(C)C)C(=O)N[C@H](C(=O)N1C[C@H](CC1)F)[C@@H](C)C1=CC=C(C=C1)F | C19H26F2N2O3
